US03953402
3,5-di tert.butyl-4-hydroxyphenyl methacrylate was prepared by stirring a mixture of 16.3 grams of 2,6-di tert.butyl hydroquinone, 18.5 grams of trifluoroacetic acid anhydride, and 8.2 grams of methacrylic acid for 3 hours at room temperature. The product, which has precipitated during the course of the reaction, was filtered off, washed first with dilute sodium carbonate solution, then with water, and then dried. After recrystallization from hexane, there was obtained 10 grams of product melting at 138° C. to 139° C.

reactant | 2,6-di tert.butyl hydroquinone | 16.3 grams | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
reactant | trifluoroacetic acid anhydride | 18.5 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methacrylic acid | 8.2 grams | C(C(=C)C)(=O)O | C4H6O2
product | 3,5-di tert.butyl-4-hydroxyphenyl methacrylate | C(C(=C)C)(=O)OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C18H26O3
